US07521162B2
Compound (3) may be prepared according to the following procedure. A mixture of potassium hydroxide powder (KOH, 85%, 198 g, 3 mol) and anhydrous sodium sulfate (Na2SO4, 51 g, 0.369 mol) is added in three stages to a mixture of 3-chloro-9H-carbazole (1 mol) and epichlorohydrin (1.5 mol), while keeping the reaction mixture at 20-25° C. The 3 stage quantities added are 33 g of Na2SO4 and 66 g of KOH initially; 9.9 g of Na2SO4 and 66 g of KOH after 1 hour of reaction; and 9.9 g of Na2SO4 and 66 g of KOH after 2 hours of reaction. The reaction mixture is stirred vigorously at 35-40° C. until 3-chloro-9H-carbazole disappears (approximately 3-4 hours). Subsequently, the mixture is cooled to room temperature, and any remaining solids are removed by filtration. The liquid organic phase is treated with a solvent such as diethyl ether and washed with distilled water until the washed water reaches a neutral pH. The organic layer is dried over anhydrous magnesium sulfate, treated with activated charcoal, and filtered. The solvent and excess epichlorohydrin are removed by evaporation in a rotory evaporator. The residue is purified by recrystallization, chromatography, or a combination of both to produce 3-chloro-9-(2,3-epoxypropyl)carbazole.

reactant | potassium hydroxide | 3 mol, 198 g | [OH-].[K+]
reactant | sodium sulfate | 0.369 mol, 51 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-chloro-9H-carbazole | 1 mol | ClC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8ClN
reactant | epichlorohydrin | 1.5 mol | C(Cl)C1CO1 | C3H5ClO
reactant | Na2SO4 | 33 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | KOH | 66 g | [OH-].[K+]
reactant | Na2SO4 | 9.9 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | KOH | 66 g | [OH-].[K+]
reactant | Na2SO4 | 9.9 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | KOH | 66 g | [OH-].[K+]
product | 3-chloro-9-(2,3-epoxypropyl)carbazole | ClC=1C=CC=2N(C3=CC=CC=C3C2C1)CC1CO1 | C15H12ClNO
